US04542213
To 4-chloro-3-sulphonitrobenzene (130 g) in water (2 liters) was added cyclohexylamine (75 ml) and sodium carbonate (26.5 g). The reaction mixture was heated at 90° for 10 hours, cooled and the solid so formed isolated by filtration to give 4-cyclohexylamino-3-sulphonitrobenzene (120 g).

reactant | 4-chloro-3-sulphonitrobenzene | 130 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C6H4ClNO5S
reactant | cyclohexylamine | 75 ml | C1(CCCCC1)N | C6H13N
reactant | sodium carbonate | 26.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 liters | O | H2O
product | 4-cyclohexylamino-3-sulphonitrobenzene | 120 g | C1(CCCCC1)NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C12H16N2O5S
